US09035059B2
4-[(1E)-3-Cyclohexylprop-1-en-1-yl]-2-fluoroaniline
Toluene (5 mL) was added to 4-bromo-2-fluoroaniline (950 mg, 5.00 mmol), allylcyclohexane (1.15 mL, 7.50 mmol), palladium acetate (112 mg, 0.50 mmol), tris(2-methylphenyl)phosphine (457 mg, 1.50 mmol) and triethylamine (2.09 mL, 15.0 mmol), and the mixture was stirred, followed by heating to reflux for 10 hr. After cooling, ethyl acetate was added thereto, the mixture was filtered through Celite (registered trademark), and then the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane only→hexane:ethyl acetate=9:1) to afford the title compound as a pale yellow oil (805 mg).

reactant | 4-bromo-2-fluoroaniline | 5.00 mmol, 950 mg | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | allylcyclohexane | 7.50 mmol, 1.15 mL | C(C=C)C1CCCCC1 | C9H16
reactant | tris(2-methylphenyl)phosphine | 1.50 mmol, 457 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | triethylamine | 15.0 mmol, 2.09 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 0.50 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[(1E)-3-Cyclohexylprop-1-en-1-yl]-2-fluoroaniline | 805 mg | C1(CCCCC1)C/C=C/C1=CC(=C(N)C=C1)F | C15H20FN
